US04562198
69.9 g (0.19 mole) of 1-bromo-1-(4-chlorophenoxy)-5-chloro-3-ethyl-3-methyl-2-pentanone, 26.2 g (0.38 mole) of imidazole and 52.4 g (0.38 mole) of potassium carbonate in 500 ml of toluene are heated at 90° C. for 10 hours. The reaction mixture is then allowed to cool and is poured onto 500 ml of water. The organic phase is separated off, washed with water, dried over sodium sulphate and concentrated. The residue is purified by column chromatography (ethyl acetate/cyclohexane=3:1). 8.5 g (14% of theory) of (4-chlorophenoxy)-(imidazol-1-yl)-(3-ethyl-3-methyltetrahydrofuran-2-ylidene)-methane of refractive index nD20 1.5552 are obtained.

reactant | 1-bromo-1-(4-chlorophenoxy)-5-chloro-3-ethyl-3-methyl-2-pentanone | 0.19 mole, 69.9 g | BrC(C(C(CCCl)(C)CC)=O)OC1=CC=C(C=C1)Cl | C14H17BrCl2O2
reactant | imidazole | 0.38 mole, 26.2 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.38 mole, 52.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (4-chlorophenoxy)-(imidazol-1-yl)-(3-ethyl-3-methyltetrahydrofuran-2-ylidene)-methane | 8.5 g, 14% | ClC1=CC=C(OC(=C2OCCC2(C)CC)N2C=NC=C2)C=C1 | C17H19ClN2O2
